### PR TITLE
[Merged by Bors] - feat: Add a `DecidableEq` instance for `Polynomial`

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Add a `DecidableEq` instance for `Polynomial` (in the presence of `DecidableEq` for coefficients).

This instance is the companion of an analogue instance for `MvPolynomial`, and it allows to use if… then… else for `Polynomial` without having to `open Classical`.

This also makes `Polynomial.instNormalizationMonoid` computable, by defining it in terms of this new instance.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by AntoineChambert-Loir** [comment]
(mathlib does not compile anymore, because at some point, it needs to equate this axiom with the classically added one…)

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 1]
```diff
@@ -173,10 +173,10 @@ def mod (p q : R[X]) :=
   p %ₘ (q * C (leadingCoeff q)⁻¹)
 #align polynomial.mod Polynomial.mod
 
-private theorem quotient_mul_add_remainder_eq_aux (p q : R[X]) : q * div p q + mod p q = p :=
-  if h : q = 0 then by simp only [h, MulZeroClass.zero_mul, mod, modByMonic_zero, zero_add]
-  else by
-    conv =>
+private theorem quotient_mul_add_remainder_eq_aux (p q : R[X]) : q * div p q + mod p q = p := by
+  by_cases h : q = 0
+  · simp only [h, MulZeroClass.zero_mul, mod, modByMonic_zero, zero_add]
```
Comment (urkud) [inline Mathlib/Data/Polynomial/FieldDivision.lean:178]:
```suggestion
  · simp only [h, zero_mul, mod, modByMonic_zero, zero_add]
```

File: Mathlib/RingTheory/EuclideanDomain.lean
Comment (eric-wieser) [inline Mathlib/RingTheory/EuclideanDomain.lean:1]: I've split the changes to this file to #6076, since they're not obviously related to the rest of the changes here.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/EuclideanDomain.lean:1]: That's OK for me. You have a broader picture than I may.

File: Mathlib/Data/Polynomial/FieldDivision.lean [hunk 2]
```diff
@@ -302,58 +303,62 @@ theorem map_div [Field k] (f : R →+* k) : (p / q).map f = p.map f / q.map f :=
...
 #align polynomial.map_div Polynomial.map_div
 
-theorem map_mod [Field k] (f : R →+* k) : (p % q).map f = p.map f % q.map f :=
-  if hq0 : q = 0 then by simp [hq0]
-  else by
-    rw [mod_def, mod_def, leadingCoeff_map f, ← map_inv₀ f, ← map_C f, ← Polynomial.map_mul f,
+theorem map_mod [Field k] (f : R →+* k) : (p % q).map f = p.map f % q.map f := by
+  by_cases hq0 : q = 0
+  · simp [hq0]
+  · rw [mod_def, mod_def, leadingCoeff_map f, ← map_inv₀ f, ← map_C f, ← Polynomial.map_mul f,
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/FieldDivision.lean:309]: I've split these to #6314

**Review by eric-wieser — APPROVED** [review]

**Comment by eric-wieser** [comment]
No one replied to

> Is anyone opposed to me merging the titular PR based on these messages? it solves a concrete painpoint, and the fallout (aside from forcing us to have this discussion again) is pretty small? I'll merge in 48 hours if no one expresses any opinions.

on Zulip, so

bors merge
